US07790727B2
4-Difluoromethoxy-N-(4-methoxy-3-piperazin-1-yl-phenyl)-benzenesulfonamide Hydrochloride
The compound was prepared as described for Example 1 by reaction of 4-(5-amino-2-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester with commercially available 4-difluoromethoxy benzene sulfonylchloride followed by deprotection.

reactant | 4-(5-amino-2-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N)OC | C16H25N3O3
reactant | 4-difluoromethoxy benzene sulfonylchloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)F | C7H5ClF2O3S
product | 4-Difluoromethoxy-N-(4-methoxy-3-piperazin-1-yl-phenyl)-benzenesulfonamide Hydrochloride | Cl.FC(OC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=C(C=C1)OC)N1CCNCC1)F | InChI=1S/C18H21F2N3O4S.ClH/c1-26-17-7-2-13(12-16(17)23-10-8-21-9-11-23)22-28(24,25)15-5-3-14(4-6-15)27-18(19)20;/h2-7,12,18,21-22H,8-11H2,1H3;1H
